US06541465B2
-Pyridinium p-toluenesulfonate (5.0 g) was added to a solution of 13-ethylgon-4-ene-3,17-dione [Hoffmann-La Roche and Co.; AG, DE 1806410 (1967); 100.0 g] in a mixture of ethanol (600 ml), dioxane (800 ml) and triethyl orthoformate (199 ml). After 4.5 h stirring at room temperature pyridine (100 ml) was added and the reaction mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate. The product was extracted into ethyl acetate; the combined organic phases were washed with water and brine, dried over magnesium sulfate and concentrated under reduced pressure, to give 3-ethoxy-13-ethylgona-3,5-dien-17-one (146.3 g). The product was used in the following step without further purification.

reactant | 13-ethylgon-4-ene-3,17-dione | 100.0 g | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)=O | C19H26O2
reactant | dioxane | 800 ml | O1CCOCC1 | C4H8O2
reactant | triethyl orthoformate | 199 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-ethoxy-13-ethylgona-3,5-dien-17-one | 146.3 g | C(C)OC1=CC2=CC[C@@H]3[C@H](CC[C@@]4(C(CC[C@@H]34)=O)CC)[C@H]2CC1 | C21H30O2
